US07842688B2
a) Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(3-phenylpyrrolidine-1-carbonyloxy)phenyl]piperidine-1-carboxylate
The stirred solution of 0.250 g of benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 2.5 ml of toluene is admixed at 0° C. with 0.131 ml of N,N-dimethylaniline and 0.65 ml of phosgene solution (20% in toluene). The reaction mixture is stirred at room temperature over 24 hours. The resulting suspension is diluted with tert-butyl methyl ether (20 ml) and washed successively with 0.1M HCl (20 ml), 1M sodium hydrogencarbonate solution (20 ml) and water, dried over sodium sulphate, filtered and concentrated by evaporation. The residue is dissolved in 1.0 ml of ethyl acetate and added to the stirred cold mixture of 0.177 g of 3-phenylpyrrolidine, 1.80 ml of ethyl acetate and 1M sodium hydrogencarbonate solution. The mixture is stirred at 0° C. over 1 hour. The reaction mixture is poured onto brine (50 ml) and extracted with ethyl acetate (2×50 ml). The organic phases are dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.16 (1:1 EtOAc-heptane); Rt=5.87.

reactant | benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.250 g | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C32H38N2O6
reactant | N,N-dimethylaniline | 0.131 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosgene | 0.65 ml | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
product | Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(3-phenylpyrrolidine-1-carbonyloxy)phenyl]piperidine-1-carboxylate | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OC(=O)N2CC(CC2)C2=CC=CC=C2)C(=O)OCC2=CC=CC=C2 | C43H49N3O7
